* Z:\mnt\design.r\spice\examples\2942-1.asc
Vbatt IN 0 3.7
R1 IN N003 10K
V2 N002 0 PULSE(3.75 3.65 1s 10m 10m 1 2)
XU1 IN 0 N004 N005 N003 N002 N001 LTC2942-1 B_Reg=60 CD_Reg=32767 EF_Reg=65535 EF_Reg=65535 GH_Reg=0 GH_Reg=0 K_Reg=255 L_Reg=0
.tran 5
.lib LTC2942-1.sub
.backanno
.end
